US08877934B2
Step J: (E)-4,4,5,5-tetrafluoro-N-[2-[[2-methyl-6-(2-methylbutoxy)-4-pyridyl]amino]ethyl]-pent-2-enamide
(E)-4,4,5,5-tetrafluoropent-2-enoic acid (21 mg, 0.12 mmol) was dissolved in DCM (1 ml), oxalyl chloride was added (10 μl, 0.12 mmol) followed by a drop of DMF. The mixture was stirred for 10 minutes at room temperature. N-[2-methyl-6-(2-methylbutoxy)-4-pyridyl]-ethane-1,2-diamine (18 mg, 0.1 mmol) was dissolved in DMF (0.5 ml), the mixtures were combined, TEA (42 μl, 0.3 mmol) was added and the resulting mixture was stirred at room temperature for 1 hour. The mixture was diluted with ethyl acetate, washed with water and saturated sodium bicarbonate solution, dried over magnesium sulfate, the solvent was removed under reduced pressure. The residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 13 mg of a white solid (0.039 mmol, 39%).

reactant | (E)-4,4,5,5-tetrafluoropent-2-enoic acid | 0.12 mmol, 21 mg | FC(/C=C/C(=O)O)(C(F)F)F | C5H4F4O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[2-methyl-6-(2-methylbutoxy)-4-pyridyl]-ethane-1,2-diamine | 0.1 mmol, 18 mg | CC1=NC(=CC(=C1)NCCN)OCC(CC)C | C13H23N3O
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4,4,5,5-tetrafluoro-N-[2-[[2-methyl-6-(2-methylbutoxy)-4-pyridyl]amino]ethyl]-pent-2-enamide | 0.039 mmol, 13 mg, 39% | FC(/C=C/C(=O)NCCNC1=CC(=NC(=C1)OCC(CC)C)C)(C(F)F)F | C18H25F4N3O2
